US04554275
Ten grams of 2-benzyloxy-6-bromonaphthalene was dissolved in 65 ml of dimethyl formamide, 2.83 grams of cuprous cyanide and 5 to 6 drops of pyridine were added thereto, and the mixture was heated to reflux with stirring for twelve hours. After the reaction was completed, the reaction solution was poured into a mixture of 150 ml of concentrated ammonia water and 150 grams of ice, the mixture was extracted with chloroform, the chloroform extract was washed with diluted hydrochloric acid and then with water, dried with anhydrous sodium sulfate, and the solvent was evaporated therefrom. The resulting residue was subjected to a column chromatography using 200 grams of silica gel and eluted with n-hexane and chloroform mixture (1:1) to afford 2-benzyloxy-6-naphthonitrile, colourless crystals, yield 6.8 grams.

reactant | 2-benzyloxy-6-bromonaphthalene | Ten grams | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)Br | C17H13BrO
reactant | ammonia water | 150 ml | O.N
reactant | dimethyl formamide | 65 ml | CN(C=O)C | C3H7NO
catalyst | pyridine | 5 to 6 drops | N1=CC=CC=C1 | C5H5N
product | 2-benzyloxy-6-naphthonitrile | C(C1=CC=CC=C1)OC1=CC2=CC=C(C=C2C=C1)C#N | C18H13NO
